US06492385B2
Step 14a: Preparation of Methyl 5′-methyl-2,2′-bithiophene-5-carboxylate.
In a flask are placed 2-bromothiophene-5-carboxylic acid (1.20 g, 5.81 mmol), 5-methylthiophene-2-boronic acid (0.99 g, 6.97 mmol), and Pd(PPh3)4 (0.20 g, 0.17 mmol). The flask is then vacuum purged and nitrogen filled (3×). THF (12mL) is then added by syringe followed by vacuum purge and nitrogen fill (3×). A solution of Na2CO3 (2M, 5.8 mL, 11.6 mmol) is added followed by vacuum purge and nitrogen fill (3×). The reaction mixture is heated to reflux for 19 h then cooled to rt and diluted with water. The aqueous solution is extracted with ether (3×). The aqueous layer is then acidified and extracted with EtOAc (3×). The combined organic layers are dried over MgSO4, filtered, and concentrated to provide an inseparable 3:1 mixture of 2-bromothiophene-5 carboxylic acid and bithiophene product. To separate the compounds the methyl esters are formed: In a flask are placed the aforementioned mixture, MeOH (50 mL) and conc H2SO4 (5 drops) and heated to reflux for 24 h. The solution is concentrated and chromatographed over silica gel (2% acetone-heptane) to provide the product as a solid (0.37 g, 26% 2 steps). 1H NMR (400 MHz, CDCl3) δ 7.69, 7.10, 7.07, 6.73, 3.91, 2.52.

reactant | 2-bromothiophene-5-carboxylic acid | 5.81 mmol, 1.20 g | BrC=1SC(=CC1)C(=O)O | C5H3BrO2S
reactant | 5-methylthiophene-2-boronic acid | 6.97 mmol, 0.99 g | CC1=CC=C(S1)B(O)O | C5H7BO2S
reactant | Na2CO3 | 11.6 mmol, 2M, 5.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bithiophene | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
catalyst | Pd(PPh3)4 | 0.17 mmol, 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeOH | 50 mL | CO | CH4O
product | Methyl 5′-methyl-2,2′-bithiophene-5-carboxylate | 0.37 g, 26% | CC1=CC=C(S1)C=1SC(=CC1)C(=O)OC | C11H10O2S2
